US07414050B2
c) 2-(4-Nitro-phenyl)-propane-1,3-disulfonic acid
2-Phenyl-propane-1,3-disulfonic acid (as prepared in the previous step) is treated with concentrated H2SO4 and fuming HNO3 according to the procedure of Example 2, step (a) to afford the title compound.

reactant | 2-Phenyl-propane-1,3-disulfonic acid | C1(=CC=CC=C1)C(CS(=O)(=O)O)CS(=O)(=O)O | C9H12O6S2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | 2-(4-Nitro-phenyl)-propane-1,3-disulfonic acid | [N+](=O)([O-])C1=CC=C(C=C1)C(CS(=O)(=O)O)CS(=O)(=O)O | C9H11NO8S2
